Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
Chest wall mass tissue biopsy 

 
History of Present Illness:
This is a ___ w/ h/o prostate cancer s/p brachytherapy > ___ 
years ago, BPH, HTN, HLD who was transferred for extensive 
lesions on CT. 

The patient is a circuitous historian. It appears he saw his PCP 
___ with back pain consistent with sciatica. CT at that time 
was concerning for malignancy and follow up MRI showed diffuse 
osseous spinal metastasis. Cancer was mentioned, any the patient 
was referred to the spine service at ___, Dr. ___. However, 
he was lost to followup due to what sounds like poor social 
support. 

Back pain, abd pain, hematuria, overflow incontinence, and left 
leg pain that radiates from the back throught the butt down the 
thigh and calf worsened. He struggles to put on clothes or walk 
around the house. Today, his nephew ___ took him to the ___.

Reports hasn't had BM that was regular in ___ weeks and having 
small BMS and taking milk of magnesia it becomes diarrhea and 
stomach feels empty and feels improved. 

 No saddle anesthesia. NO fevers, chills. Mild SOB with 
 deep breathing. ALso some intermittent abdominal discomfort and 
loose 
 stools alternating with pebbly small stools past few weeks. No 
dysuria, hematuria. No falls, fainting, confusion. 

In the ___:
Rectal tone normal, guiac negative. 
CT head negative 
CT cspine: Lytic metastasis throughout, no cervical cord 
compression.
CT chest: Numerous lytic lesions in spine and ribs, none 
compressing thoracic cord. No evidence of pulmonary emboli or 
parenchymal metastases. 
CT a/p: Left extensive bladder wall thickening, continuous with 
the
prostate posterior inferiorly. Lytic lesions throughout.
Left ureterovesicular junction obstruction with hydroureter and 
hydronephrosis

He was transferred for oncology, spine evaluation, possibly 
radiation oncology for likely new metastatic lesions diffuse in 
spine and  workup.

In the ___ ___: 
T 98.9 HR 105 BP 169/102 RR 18 O2 98% RA 
CBC, CHEM 10, LFT's unremarkable (see below).
MRI prelim confirmed multiple metastases without cord 
involvement.
Neurosurgery evaluated, felt no acute issues.
He required no pain meds and was admitted.

On arrival to the floor, denies any numbness/tingling in his 
upper or lower extremities. Denies bowel incontinence or saddle 
anesthesia. He does endorse significant unintentional weight 
loss. Denies
CP/SOB/F/C/NV.

 
Past Medical History:
HTN
HLD
BPH
Prostate Cancer s/p brachytherapy 
 
Social History:
___
Family History:
Brother had colon cancer

 
Physical Exam:
ADMISSION
T 98.9 HR 97 BP 183/85 RR 19 O2 95%RA 
GEN: Cachectic, disheveled
HEENT: Multiple seborrheic keratosis, anicteric
HEART: RRR, no murmurs
LUNGS: CTA bialtearlly, good air movement
ABD: 4cm hard nontender mass over left costal margin, soft, 
diffusely tender
GU: No foley
EXT: Thin, no edema, no skin breakdown
NEURO: Alert, oriented x3, fluent speech
Left psoas ___ due to pain, otherwise ___ throughout

DISCHARGE
VS: 98.0PO 113 / 66 81 18 97 Ra 
General: laying in bed in NAD
Eyes: no scleral icterus, no conjunctival injection
ENT: OP clear, MMM
Heart: RRR no mrg
Lungs: CTA bilaterally, no respiratory distress
Abd: soft nontender, normoactive bowel sounds
Ext: trace edema of L leg to knee  
Skin: no rashes
Neuro: AOx3, moving all extremities; ___ strength in RLE, 4+/5
strength in proximal LLE with ___ strength in distal LLE. 

 
Pertinent Results:
ADMISSION LABS:
___ 08:45PM BLOOD WBC-7.0 RBC-4.63 Hgb-14.3 Hct-41.6 MCV-90 
MCH-30.9 MCHC-34.4 RDW-12.2 RDWSD-40.1 Plt ___
___ 08:45PM BLOOD Neuts-69.9 Lymphs-14.1* Monos-12.4 
Eos-2.3 Baso-1.0 Im ___ AbsNeut-4.93 AbsLymp-0.99* 
AbsMono-0.87* AbsEos-0.16 AbsBaso-0.07
___ 08:45PM BLOOD Glucose-86 UreaN-7 Creat-0.6 Na-137 K-3.5 
Cl-102 HCO3-22 AnGap-17
___ 08:45PM BLOOD ALT-7 AST-20 AlkPhos-111 TotBili-0.6
___ 08:45PM BLOOD TotProt-6.0* Albumin-3.5 Globuln-2.5 
Calcium-8.6 Phos-3.8 Mg-1.7
___ 08:45PM BLOOD PSA-18.3*

DISCHARGE LABS:
___ 03:49PM BLOOD WBC-4.4 RBC-4.12* Hgb-12.8* Hct-37.4* 
MCV-91 MCH-31.1 MCHC-34.2 RDW-12.2 RDWSD-40.0 Plt ___
___ 03:49PM BLOOD Glucose-99 UreaN-16 Creat-0.6 Na-137 
K-4.2 Cl-98 HCO3-29 AnGap-14
___ 03:49PM BLOOD ALT-15 AST-17 LD(LDH)-113 AlkPhos-97 
TotBili-0.2
___ 03:49PM BLOOD Albumin-3.7 Mg-2.___bd/Pelvis - ___
1. Left extensive bladder wall thickening, continuous with the 
prostate posterior inferiorly. Suspicious for either recurrent 
prostate malignancy invading the bladder or a primary bladder 
malignancy, the latter is more frequently associated with lytic 
metastases.
2. Lytic lesions scattered in the skeleton including a large
medial left acetabular lesion. Right L5 neural arch lesion with
extraosseous component causing right lateral recess stenosis, 
right L5
foraminal stenosis, probably impinging on the right L5, right S1 
roots.
3. Greater amount of left pelvic adenopathy. Greater amount of
pathologic aortocaval retroperitoneal lymph nodes.
4. Left bladder lesion obstructs the left UVJ, there is
hydroureter and hydronephrosis, reduced excretion on the left.
5. Uncomplicated sigmoid diverticulosis. Status post 
aortobiiliac
graft, with native iliac arterial thrombosis. Status post
brachytherapy seed implant treatment of prostate.

CT Chest PE - ___
1. Numerous lytic lesions, none threatening thoracic thecal sac
or compressing thoracic cord. Left pedicle lesions as noted 
which
encroach on left T3, left T4, left T6 neural foramina, details
above. No pathological fracture identified.
2. No evidence of pulmonary emboli or parenchymal metastases.
3. Left first rib, right coracoid process lytic lesions. Left
lower anterior chest wall superficial subcutaneous metastasis, 
level of
the sixth and seventh costal cartilages. Other incidental 
findings as
noted.
 
CT Cspine - ___
1. Lytic metastasis, largest in the right side of C7 centered in
pedicle, encroaching on the right C7 foramen above, right C8
neural foramen below this lesion. No high-grade thecal sac or 
cervical
cord compression here or at any other level.
2. Additional lytic lesions in C6, T1. No pathological fracture.
No malignant cervical thecal sac or cord compression is clearly
shown.
3. DJD C1/2, scattered in the facet joints as detailed.

CT Head - ___ 
1. Mild involution, minimal small vessel ischemic
leukoencephalopathy. Otherwise normal CT scan of the head, 
before and after IV contrast. 
2. No acute hemorrhage, acute infarction, edema, mass, mass
effect, enhancing lesion or lytic skull.

MRI C/T/L spine
1. Study is moderately degraded by motion and limited to the 
lack
of administration of intravenous contrast.  Please note that 
this is
an incomplete examination without acquisition of post-contrast 
sequences as patient could not tolerate further imaging. 
2. Significant progression of osseous metastatic disease, as 
described, with both new and enlarging lesions, involving the 
cervical, thoracic, and lumbar spine, left posterior first rib, 
and bilateral iliac bones.  Bony expansion from a metastatic 
lesions are seen at multiple levels, with suggestion of extra 
cortical soft tissue extension at the L5 level producing mild 
spinal canal narrowing and severe neural foraminal narrowing at 
the right L5-S1 level with focal encasement of the exiting right 
L5 nerve root.  Additional areas of extra cortical soft tissue 
extension are possible, though difficult to characterize given 
lack of intravenous contrast. 
3. New mild pathologic superior endplate compression fracture of 
the L2 vertebral body. 
4. Interval decrease in size of a 16 x 5 mm mildly expansile 
intramedullary spinal cord lesion at the level of T6. 
5. Bony expansion from metastatic involvement produces mild left 
T3-T4, moderate left T4-T5, and mild right T5-T6 neural 
foraminal narrowing, progressed compared to prior examination. 
6. Unchanged moderate to severe left-sided hydroureteronephrosis 
with apparent transition point at the level of the mid to distal 
left common iliac artery were there are presumed changes from 
prior vascular surgery.  The mid left common iliac artery 
appears irregular, better characterized on the outside hospital 
CT examination. 
7. Paraaortic and left iliac chain lymphadenopathy is better 
characterized on the recent prior outside hospital CT 
examination. 
RECOMMENDATION(S):  Recommend additional postcontrast imaging, 
when patient is able to tolerate. 

___ - Dopper LLE
Nonocclusive thrombus in the proximal left common femoral vein

___ MRI T- and L-spine
1. Multiple osseous lesions throughout the thoracolumbar spine, 
unchanged from
___ and progressed from ___, compatible 
with known
osseous metastasis.
2. In comparison with the prior postcontrast study dated 
___, there
is increased enhancement of these osseous lesions with increase 
in enhancing
right L5 soft tissue mass encasing the right L5 exiting nerve 
root.
3. No new osseous lesions are seen when compared with the recent 
study from ___.
4. Unchanged mild L2 superior endplate compression deformity, 
new from ___.
5. Moderate to severe left-sided hydronephrosis, stable from ___.

 
Brief Hospital Course:
This is a ___ year old male with past medical history of prostate 
cancer, hypertension, recent MRI ___ concerning for 
metastatic disease without clear follow-up, admitted ___ 
with signs of rapidly progressing metastatic disease 

# Metastatic Prostate Cancer - Patient with recent history of 
prior imaging from ___ and ___ that had been concerning 
for progressing malignancy, but who had not had follow-up 
appointments for additional workup, who was referred for 
admission with imaging demonstrating significant progression of 
malignancy.  This included significant osseous burden of disease 
of cervical, thoracic, and lumbar spine, as well as ribs, iliac 
bones.  Patient was seen by heme/onc service and underwent 
biopsy of anterior chest wall mass that showed metastatic 
prostate cancer.  He was started on IM lupron and bicalutamide.  
He was seen by radiation oncology and urology as below. 

# Acute L2 compression 
# Metastases to Vertebrae
On admission imaging, patient was found to have L2 compression 
fracture and well as spinal cord lesion at T6. MRI quality was 
degraded by motion and by early termination prior to 
post-contrast images.  Patient was seen by spine service who 
felt there were no concerning features on patients exam to 
suggest cord compression.  He was fitted for TLSO brace and was 
started on standing Tylenol with prn Oxycodone.  He was seen by 
radiation oncology and underwent repeat MRI that showed which 
showed stable metastatic spinal lesions.  He underwent 5 total 
fractions of radiation treatment prior to discharge.

# L Hydronephrosis and Hydroureter 
# Bladder Mass
Patient found to have admission imaging with L hydronephrosis 
and hydroureter as well as a suspected infiltrating bladder 
mass.  He was seen by urology service who, given stable 
creatinine, recommended non urgent cystoscopy with transurethral 
bladder tumor resection and ureteral stenting.  He was scheduled 
for follow-up post-discharge.

# History of Prostate Cancer - Continued doxazosin and 
oxybutynin

# Hypertension - Continued amlodipine, metoprolol

# Peripheral Vascular Disease - Continued home statin

Transitional Issues:
[ ] Needs Urology f/u for L hydronephrosis and suspected bladder 
ca (see above)

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Doxazosin 4 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. Metoprolol Tartrate 50 mg PO BID 
5. Oxybutynin 5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  bicalutamide 50 mg oral DAILY  
3.  Enoxaparin Sodium 50 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Mild  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  amLODIPine 5 mg PO DAILY  
7.  Doxazosin 4 mg PO DAILY  
8.  Metoprolol Tartrate 50 mg PO BID  
9.  Oxybutynin 5 mg PO BID  
10.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___      
 
___ Diagnosis:
Primary: Metastatic prostate cancer

Secondary: L2 compression fracture, spinal metastases, left 
lower extremity deep venous thrombosis, left hydronephrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Mr ___

It was a pleasuring caring for you at ___.  You were admitted 
with back pain and found to have signs of metastatic cancer.  
You underwent biopsy that showed metastatic prostate cancer.  
You were seen by urologists and oncologists who recommend 
radiation therapy, which was performed during your stay. 

You were also noted to have a swollen leg.  Ultrasound showed a 
blood clot.  You were started on a blood thinner called lovenox. 


Please return if you have worsening shortness of breath, 
coughing up blood, or if you are having worsening pain, 
numbness, or weakness 

Your ___ Care Team 
 
Followup Instructions:
___